data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1c(C)cccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(C)cccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1c(C)cccc1OC)C(C)C", "products": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1cccc(C)c1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cccc(F)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cccc(F)c1)C(C)C", "products": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(F)c2)O1"}, {"reactants": "CC(C)C1C[CH]2[CH2][RhH]2[Si](c2ccccc2)(c2cccc(F)c2)O1", "products": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(F)c2)O1"}, {"reactants": "CC(C)C1CC([CH2][RhH])[Si](c2ccccc2)(c2cccc(F)c2)O1.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(F)c2)O1"}, {"reactants": "CC(C)C1CC(C[C](=O)[RhH])[Si](c2ccccc2)(c2cccc(F)c2)O1", "products": "CC(C)C1CC(CC=O)[Si](c2ccccc2)(c2cccc(F)c2)O1.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "H2SO4"}, {"role": "reagent", "text": "0 °C"}], "steps": [{"reactants": "CC1(C)C2CCC1(C)C(O)(c1ccc(Cl)c(Cl)c1)C(=O)C2.[H+]", "products": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)c(Cl)c1)C(=O)C2"}, {"reactants": "CC1(C)C2CCC1(C)C([OH2+])(c1ccc(Cl)c(Cl)c1)C(=O)C2", "products": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)c(Cl)c1)C2(C)C.O"}, {"reactants": "CC12CCC(CC(=O)[C+]1c1ccc(Cl)c(Cl)c1)C2(C)C", "products": "C[C+]1C2(c3ccc(Cl)c(Cl)c3)CCC(CC2=O)C1(C)C"}, {"reactants": "C[C+]1C2(c3ccc(Cl)c(Cl)c3)CCC(CC2=O)C1(C)C", "products": "CC1=C(c2ccc(Cl)c(Cl)c2)CCC(C#[O+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)c(Cl)c2)CCC(C#[O+])C1(C)C.O", "products": "CC1=C(c2ccc(Cl)c(Cl)c2)CCC(C(=O)[OH2+])C1(C)C"}, {"reactants": "CC1=C(c2ccc(Cl)c(Cl)c2)CCC(C(=O)[OH2+])C1(C)C", "products": "C[C+]1C(c2ccc(Cl)c(Cl)c2)CCC(C(=O)O)C1(C)C"}, {"reactants": "C[C+]1C(c2ccc(Cl)c(Cl)c2)CCC(C(=O)O)C1(C)C", "products": "CC1(C)C2CCC(c3ccc(Cl)c(Cl)c3)C1(C)[OH+]C2=O"}, {"reactants": "CC1(C)C2CCC(c3ccc(Cl)c(Cl)c3)C1(C)[OH+]C2=O", "products": "CC1(C)C2CCC(c3ccc(Cl)c(Cl)c3)C1(C)OC2=O.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cc(C(=O)C2C3CCC2C3)ccc1Cl", "products": "Cc1cc([C]([O])C2C3CCC2C3)ccc1Cl"}, {"reactants": "Cc1cc([C]([O])C2C3CCC2C3)ccc1Cl", "products": "Cc1cc(C([O])=CC2C[CH]CC2)ccc1Cl"}, {"reactants": "Cc1cc(C([O])=CC2C[CH]CC2)ccc1Cl", "products": "Cc1cc(C(O)=CC2C=CCC2)ccc1Cl"}, {"reactants": "Cc1cc(C(O)=CC2C=CCC2)ccc1Cl", "products": "Cc1cc(C(=O)CC2C=CCC2)ccc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1Cl.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1Cl.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1Cl", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2Cl.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2Cl", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(OC)CC2Cl"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccccc1F)C1C2CCC1C2", "products": "[O][C](c1ccccc1F)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccccc1F)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccccc1F"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccccc1F", "products": "OC(=CC1C=CCC1)c1ccccc1F"}, {"reactants": "OC(=CC1C=CCC1)c1ccccc1F", "products": "O=C(CC1C=CCC1)c1ccccc1F"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)C)c([Si](C)(C)COC)c2OC", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)COC)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(OC)c([Si](C)(C)COC)c([Si](C)(C)C)cc1=C", "products": "COC[Si](C)(C)c1c([Si](C)(C)C)cc2c(c1OC)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
